US07091228B2
Methyl trans-2-(4-bromobenzoyl)cyclopropanecarboxylate (1.33 g, 4.70 mmol) and 4-amino-phenyl boronic acid (0.98 g, 5.64 mmol) were combined in a dry flask under argon. Toluene (25 mL), EtOH (10 mL), and 3 M aqueous Na2CO3 (7 mL, 20 mmol) were added, and the resulting solution was degassed for 30 minutes by using a flow of argon. Then [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II), 1:1 complex with dichloromethane (383 mg, 0.47 mmol) was added, and the resulting mixture was heated at 85° C. for 16 h. The mixture was cooled to rt, then diluted with EtOAc and passed through a Celite® pad. The solvent was removed by rotary evaporation. Water and EtOAc were added, and the aqueous layer was extracted with EtOAc. The combined organic phases were washed with water, brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (Biotage Flash 40M) using 33 to 40% ethyl acetate in hexane to afford methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-cyclopropanecarboxylate (0.92 g, 66%). 1H NMR (400 MHz, CD2Cl2) δ 1.60 (m, 2H), 2.35 (m, 1H), 3.22 (m, 1H), 3.73 (s, 3H), 6.80 (m, 2H), 7.51 (m, 2H), 7.68 (m, 2H), 8.05 (m, 2H).

reactant | Methyl trans-2-(4-bromobenzoyl)cyclopropanecarboxylate | 4.70 mmol, 1.33 g | BrC1=CC=C(C(=O)[C@H]2[C@@H](C2)C(=O)OC)C=C1 | C12H11BrO3
reactant | 4-amino-phenyl boronic acid | 5.64 mmol, 0.98 g | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | Na2CO3 | 20 mmol, 3 M, 7 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 0.47 mmol, 383 mg | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloro palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | Toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]-cyclopropanecarboxylate | 0.92 g, 66% | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](C1)C(=O)OC | C18H17NO3
